US04416880
2-Naphthylidene-3-oxo-4-chlorobutyric acid ethyl ester
9.85 g of 1-naphthaldehyde were reacted with 15.2 g of 4-chloroacetoacetic acid ethyl ester in the course of 10 hours as described in Example 24. After incipient distillation under a high vacuum had been carried out, a 2:1 isomer mixture which still contained traces of aldehyde remained as the residue.

reactant | 1-naphthaldehyde | 9.85 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | 4-chloroacetoacetic acid ethyl ester | 15.2 g | C(C)OC(CC(=O)CCl)=O | C6H9ClO3
product | 2-Naphthylidene-3-oxo-4-chlorobutyric acid ethyl ester | C(C)OC(C(C(CCl)=O)=C1CC2=CC=CC=C2C=C1)=O | C16H15ClO3
